US06887877B2
To a solution of 2-[(4-Methoxy-2,3,6-trimethyl-benzenesulfonyl)-prop-2-ynyl-amino]-3-phenyl-propionic acid methyl ester (150 mg, 0.349 mmol) in anhydrous dichloroethane (1.5 mL), trifluoroacetic acid (3.5 mL) and ethyl methyl sulfide (0.16 mL, 1.75 mmol) were added. The reaction mixture was stirred at room temperature under a N2 atmosphere for 12 h. Excess of solvents were removed under reduced pressure and the residue was extracted between saturated NaHCO3 solution and ethyl acetate. The organic layer was separated, dried (Na2SO4), concentrated. The crude product was purified by silica gel column chromatography using ethyl acetate and hexane (1:3) as eluent to obtain 3-Phenyl-2-prop-2-ynylamino-propionic acid methyl ester as a thick syrup, 70 mg (92%). 1H NMR (CDCl3, 400 MHz): δ7.32-7.19 (m, 5H), 3.78 (t, 1H), 3.68 (s, 3H), 3.40 (ABq, 2H), 3.03 (dd, 1H), 2.98 (dd, 1H), 1.99 (t, 1H).

reactant | 2-[(4-Methoxy-2,3,6-trimethyl-benzenesulfonyl)-prop-2-ynyl-amino]-3-phenyl-propionic acid methyl ester | 0.349 mmol, 150 mg | COC(C(CC1=CC=CC=C1)N(CC#C)S(=O)(=O)C1=C(C(=C(C=C1C)OC)C)C)=O | C23H27NO5S
reactant | ethyl methyl sulfide | 1.75 mmol, 0.16 mL | CSCC | C3H8S
solvent | dichloroethane | 1.5 mL | ClC(C)Cl | C2H4Cl2
solvent | trifluoroacetic acid | 3.5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Phenyl-2-prop-2-ynylamino-propionic acid methyl ester | COC(C(CC1=CC=CC=C1)NCC#C)=O | C13H15NO2
